US05288735
Preparation of 2-(Glycylimino)-3-Methyl-1,3,4-Thiadiazoline-5-Sulphonamide Hydrobromide
The desired compound is prepared by subjecting 2-(N-carbobenzyloxy-glycylimino)-3-methyl-1,3,4-thiadiazoline-5-sulphonamide (0.5 gm) suspended in glacial acetic acid (5ml) to a solution of hydrogen bromide in glacial acetic acid (32% w/w. 8.0 ml) at room temperature for about 1 hour with stirring. Diethyl ether (50 ml) is then added and the mixture set aside for three hours at 0° C. The solid precipitate is collected, washed with diethyl ether, and dried to give the desired product, 2-(glycylimino)-3-methyl-1,3,4-thiadiazoline-5-sulphonamide hydrobromide, m.p. 209°-210° C. (0.4 gm).

reactant | 2-(N-carbobenzyloxy-glycylimino)-3-methyl-1,3,4-thiadiazoline-5-sulphonamide | 0.5 gm | C(=O)(OCC1=CC=CC=C1)NCC(=O)N=C1SC(=NN1C)S(=O)(=O)N | C13H15N5O5S2
reactant | hydrogen bromide | Br | BrH
reactant | Diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | acetic acid | 5ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 8.0 ml | C(C)(=O)O | C2H4O2
product | 2-(glycylimino)-3-methyl-1,3,4-thiadiazoline-5-sulphonamide hydrobromide | Br.NCC(=O)N=C1SC(=NN1C)S(=O)(=O)N | InChI=1S/C5H9N5O3S2.BrH/c1-10-4(8-3(11)2-6)14-5(9-10)15(7,12)13;/h2,6H2,1H3,(H2,7,12,13);1H
